US06248764B1
[2-(2-Bromo-benzyl)-4,5-dimethyl-furan-3-yl]-(3,5-diisopropyl-4-hydroxy-phenyl)-methanone
The title compound was prepared according to the procedure in Example 5, step 3 using [2-(2-bromo-benzyl)-4,5-dimethyl-furan-3-yl]-(3,5-diisopropyl-4-methoxy-phenyl)-methanone (0.973 g, 2.01 mmol) and 1M boron tribromide/CH2Cl2 (4.23 mL) in CH2Cl2. Purification on Biotage KP-Sil eluting with 15% acetone/hexane gave 0.679 g (72%) of the title compound. 1H NMR (DMSO-d6) δ1.13 (d, 12H), 1.82 (s, 3H), 2.18 (s, 3H), 3.31 (septet, 2H), 3.94 (s, 2H), 7.12-7.17 (m, 2H), 7.30 (dt, 1H), 7.42 (s, 2H), 7.52 (d, 1H), 9.10 (s, 1H).

reactant | [2-(2-bromo-benzyl)-4,5-dimethyl-furan-3-yl]-(3,5-diisopropyl-4-methoxy-phenyl)-methanone | 2.01 mmol, 0.973 g | BrC1=C(CC=2OC(=C(C2C(=O)C2=CC(=C(C(=C2)C(C)C)OC)C(C)C)C)C)C=CC=C1 | C27H31BrO3
reactant | boron tribromide CH2Cl2 | 1M, 4.23 mL | B(Br)(Br)Br.C(Cl)Cl
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | [2-(2-Bromo-benzyl)-4,5-dimethyl-furan-3-yl]-(3,5-diisopropyl-4-hydroxy-phenyl)-methanone | 0.679 g, 72% | BrC1=C(CC=2OC(=C(C2C(=O)C2=CC(=C(C(=C2)C(C)C)O)C(C)C)C)C)C=CC=C1 | C26H29BrO3
